Name:  ___            Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
bruising iso elevated INR to 9.0
 
Major Surgical or Invasive Procedure:
None 

 
History of Present Illness:
Mr. ___ is a ___ male with history
significant for CAD & AS s/p CABG/mechanical AVR (on warfarin) 
in
___, CHB s/p pacemaker placement, multiple strokes most 
recently
in ___ with residual L-sided weakness and dysarthria,
intracranial hemorrhage, cirrhosis (remote alcohol use disorder,
fibroscan Metavir Stage ___ in ___, anxiety, HLD, and
dementia with short term memory deficits. The patient recently
sustained a mechanical fall on ___, with slight separation of
his right AC joint, who initially presented to ___ on ___
( 7 days after his fall) with bruising on his right chest and
flank. He was found to have a Hgb of 6.7 & INR elevated to 9. He
is now s/p FFP, Vitamin K, and 1U pRBC. 

Per history obtained in the ED, the patient was in his usual
state of health until ___ when he was walking his dog on the
sidewalk and his dog pulled suddenly and he fell onto his right
side. Per the patient and his wife, there was no history of LOC.
At the time of the fall the patient's only symptom was right
shoulder pain, so he did not seek medical attention at that 
time.
He presented to ___ earlier today because he was due for 
an
INR check and he had continued shoulder pain so his wife
convinced him to go. At ___, he was found to have an INR of
>9, Hct of 21.5. He got a CT head, CT chest, CT C-spine and 
right
shoulder xray. He got 1U FFP, 10mg of vitamin K and 1U PRBC. 

In the ___ (post transfer) ED: 

Initial vitals were: T-98.3, HR-60, BP-133/66, RR- 16, O2-99% RA 


Exam was notable for: Diffuse ecchymosis and bruising of RUE and
R flank 

Labs were notable for: (use specific numbers)
- WBC: 8.6, HgB: 6.7, Hct: 22.0 , Plt: 281 
- Coags: ___: 32.6  PTT: 42.8  INR: 3.0  
- Trop-T: <0.01 
- Normal chemistry panel 
- Normal UA  

Studies were notable for: 
- OSH CT Chest: 1. No depressed rib fracture no pneumothorax. 2.
Diffuse edematous changes throughout the right anterior chest
wall consistent with a history of localized trauma.3.
Postoperative changes as described above. 4. Severe 
emphysematous
changes of the lungs with bullous disease. FINDINGS: Prior left
thoracotomy, sternotomy and valve replacement, and
pacemaker. 

- OSH Shoulder XR: 1. AC joint space widening to 15 mm,
consistent with separation.
Clinical correlation may be useful. 2. Low-lying acromion, which
may narrow the subacromial space and contribute to distal
insertional rotator cuff tendinopathy.

- OSH CT Head & C-Spine: The vertebral bodies show no acute
fracture. Degenerative changes disc space narrowing C3-C4 C4-C5.
Retropharyngeal soft tissues unremarkable. Coronal reformatted
images show alignment of the lateral mass of C1 with the
vertebral body of C2 in the base of the dens is intact. Axial
images show no acute fracture. Multilevel degenerative changes 
of
the facets most marked at C3-C4 on the left bilaterally C5-C6.
And moderate foraminal narrowing at C6-C7 on the right. Lung
apices show no pneumothorax IMPRESSION: 1. No acute fracture.

The patient was given:
- IV Morphine and Acetaminophen

Consults:
- Orthopedic surgery was consulted and recommend admission to
medicine to manage his anticoagulation, particularly because he
received vitamin K at the OSH and his INR will probably become
subtherapeutic and he will need monitoring and possibly 
bridging.
No trauma injuries to intervene on at this point.

On arrival to the floor, the patient reports that he was feeling
well with the exception of some shoulder pain for which he was
requesting pain medications. He endorses the above history. He
added that he had been taking a lot of NSAIDs for the pain the
resulted from his fall. He does not recall any melena,
hematochezia, or hematemesis. He endorses right sided shoulder
pain as well as right sided back pain which is worse than his
baseline. Denies headaches, vision changes, confusion, or issues
with gait/balance. 
 
Past Medical History:
- Aortic stenosis s/p Aortic valve replacement ___ (during 
CABG)
- CAD and AS s/p CABG-AVR in ___ at ___
- CHB s/p PPM placement at ___
- CVA in ___ & ___ w/minor residual L sided deficits (related
to subtherapeutic INR)
- Esophageal rupture ___ s/p surgery 
- History of intracranial bleed in ___ while hospitalized 
- Cirrhosis: CT scan ___ showing cirrhosis of liver 
- History of EtOH use disorder
- Dementia 
- Chronic back pain (follows with Dr. ___
 
Social History:
___
Family History:
- Father died from lung cancer
- Mother from unclear reasons
 
Physical Exam:
ADMISSION PHYSICAL EXAMINATION: 
============================
GENERAL: Alert and interactive. Resting comfortably in no acute
distress.
HEENT: PERRLA, EOMI. Sclera anicteric and without injection. 
MMM.
NECK: No cervical lymphadenopathy. No JVD. No thyromegaly. 
CARDIAC: Regular rhythm, normal rate. Audible S1 and S2. No
murmurs/rubs/gallops. + sternotomy scar.
LUNGS: Clear to auscultation bilaterally. No wheezes, rhonchi or
rales. No increased work of breathing.
BACK: Large right sided ecchymosis extending from the level of
the nipple to the hip. Mildly tender to palpation. 
ABDOMEN: Normal bowels sounds, non distended, non-tender to deep
palpation in all four quadrants. No hepatosplenomegaly. Multiple
sternotomy scars. 
EXTREMITIES: No clubbing, cyanosis, or edema. Pulses DP/Radial 
2+
bilaterally.
SKIN: Warm. Cap refill <2s. No rashes.
NEUROLOGIC: AOx3. CN2-12 intact. Moving all 4 limbs
spontaneously. ___ strength on right, ___ strength on left. 

DISCHARGE PHYSICAL EXAMINATION: 
=============================
 Temp: 98.5 (Tm 98.7), BP: 145/72 (128-149/44-72), HR: 59
(55-62), RR: 16 (___), O2 sat: 98% (97-100), O2 delivery: Ra  
GENERAL: Alert and interactive. Resting comfortably in no acute
distress.
HEENT: PERRLA, EOMI. Sclera anicteric and without injection. 
MMM.
NECK: No cervical lymphadenopathy. No JVD. No thyromegaly. 
CARDIAC: Regular rhythm, normal rate. Audible S1 and S2. No
murmurs/rubs/gallops. + sternotomy scar.
LUNGS: Clear to auscultation bilaterally. No wheezes, rhonchi or
rales. No increased work of breathing.
BACK: Large right sided ecchymosis extending from the level of
the nipple to the hip. Mildly tender to palpation. 
ABDOMEN: Normal bowels sounds, non distended, non-tender to deep
palpation in all four quadrants. No hepatosplenomegaly. Multiple
sternotomy scars. 
EXTREMITIES: No clubbing, cyanosis, or edema. Pulses DP/Radial 
2+
bilaterally.
SKIN: Warm. Cap refill <2s. No rashes.
NEUROLOGIC: AOx3. CN2-12 intact. Moving all 4 limbs
spontaneously. ___ strength on right, ___ strength on left.
 
Pertinent Results:
ADMISSION LABS: 
==============
___ 06:48PM BLOOD WBC-8.6 RBC-2.40* Hgb-6.7* Hct-22.0* 
MCV-92 MCH-27.9 MCHC-30.5* RDW-20.0* RDWSD-60.5* Plt ___
___ 06:48PM BLOOD ___ PTT-42.8* ___
___ 06:48PM BLOOD Glucose-85 UreaN-14 Creat-1.1 Na-142 
K-4.6 Cl-107 HCO3-22 AnGap-13
___ 06:48PM BLOOD Calcium-9.0 Phos-3.5 Mg-2.1
___ 07:03PM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.0 Leuks-NEG

DISCHARGE LABS: 
==============
___ 06:35AM BLOOD WBC-6.0 RBC-3.07* Hgb-8.7* Hct-27.1* 
MCV-88 MCH-28.3 MCHC-32.1 RDW-19.7* RDWSD-61.0* Plt ___
___ 06:35AM BLOOD WBC-6.0 RBC-3.07* Hgb-8.7* Hct-27.1* 
MCV-88 MCH-28.3 MCHC-32.1 RDW-19.7* RDWSD-61.0* Plt ___
___ 07:26AM BLOOD Neuts-72.1* Lymphs-17.5* Monos-8.5 
Eos-0.7* Baso-0.5 Im ___ AbsNeut-5.27 AbsLymp-1.28 
AbsMono-0.62 AbsEos-0.05 AbsBaso-0.04
___ 06:35AM BLOOD Glucose-112* UreaN-10 Creat-0.9 Na-136 
K-3.8 Cl-105 HCO3-22 AnGap-9*
___ 06:11AM BLOOD ALT-7 AST-17
___ 06:35AM BLOOD Calcium-9.0 Phos-3.9 Mg-1.9
___ 07:26AM BLOOD Ferritn-73

IMAGING REPORTS:
===============
IMAGING/DIAGNOSTICS: Reviewed in ___ and notable for: 
- ___hest: 1. No depressed rib fracture no
pneumothorax. 2. Diffuse edematous changes throughout the right
anterior chest wall consistent with a history of localized
trauma.3. Postoperative changes as described above. 4. Severe
emphysematous changes of the lungs with bullous disease.
FINDINGS: Prior left thoracotomy, sternotomy and valve
replacement, and pacemaker. 

- ___ OSH Shoulder XR: 1. AC joint space widening to 15 mm,
consistent with separation.
Clinical correlation may be useful. 2. Low-lying acromion, which
may narrow the subacromial space and contribute to distal
insertional rotator cuff tendinopathy.

- ___ OSH CT Head & C-Spine: The vertebral bodies show no
acute fracture. Degenerative changes disc space narrowing C3-C4
C4-C5. Retropharyngeal soft tissues unremarkable. Coronal
reformatted images show alignment of the lateral mass of C1 with
the vertebral body of C2 in the base of the dens is intact. 
Axial
images show no acute fracture. Multilevel degenerative changes 
of
the facets most marked at C3-C4 on the left bilaterally C5-C6.
And moderate foraminal narrowing at C6-C7 on the right. Lung
apices show no pneumothorax IMPRESSION: 1. No acute fracture.

-___ CT A/P W/O CON: No acute intra-abdominal abnormality, 
specifically no retroperitoneal hematoma.

 
Brief Hospital Course:
Mr. ___ is a ___ male with extensive past 
cardiac history including CAD & AS s/p CABG/mechanical AVR (on 
warfarin) in ___, CHB s/p pacemaker placement, multiple strokes 
most recently, intracranial hemorrhage, short term memory 
deficits. The patient recently sustained a mechanical fall on 
___, and presented to ___ on ___ for shoulder pain 
and extensive bruising on his right shoulder, torso and back. 
Patient was found to have INR of 9 and Hb 6.7. He received one 
unit of FFP, vitamin K and 1 Unit of pRBC while at ___. He 
was transferred to the ___ for further management.

DISCHARGE H/H: 8.7/___.1 
DISCHARGE Cr: 0.9 
DISCHARGE INR: 1.4 

TRANSITIONAL ISSUES: 
====================
[] Measure INR three times a week - Goal 2.5-3.5. 
[] Continue with lovenox till INR is therapeutic. 
[] Consider switching to high intensity statin if able. 

ACUTE/ACTIVE ISSUES:
====================
# Acute Anemia/ Coagulopathy 
The patient was found to have an INR >9 and a HgB of 6.7 on 
check at ___ (Baseline Hb in the ___ range). He received 
one unit of now FFP, Vitamin K, and 1U pRBC. CT torso C/A/P from 
___ without evidence of bleeding. His coagulopathy is likely 
due to taking 2.5 mg of warfarin daily THREE TIMES ___. His 
Hemoglobin drop is likely due extensive ecchymosis. Patient 
received a second unit of pRBC while at the ___. He remained 
vitally stable without evidence of bleeding or orthostasis. 
Patient was started on heparin gtt while in house. Patient was 
transitioned to warfarin with lovenox bridge. 

# Aortic stenosis s/p Aortic valve replacement ___ (during 
CABG):
INR goal 2.5-3.5. Warfarin was initially held given drop in 
hemoglobin. Given high risk of thromboembolic event, heparin gtt 
was started. Patient was transitioned to warfarin with lovenox 
bridge. 

# AC Joint Separation 
# Mechanical Fall 
The patient suffered a mechanical fall when his dog pulled him 
on ___. He had radiographic evidence of AC joint separation. 
Orthopedics surgery were consulted and did not recommend 
surgical intervention. Patient has mild pain at this time. 

CHRONIC/STABLE ISSUES:
======================
# Coronary artery disease s/p CABG in ___: 
# CHB s/p PPM placement at ___:
# CVA in ___ & ___ w/minor residual L sided deficits (related 
to subtherapeutic INR):
He also had subsequent episode of ACS in ___ while hospitalized 
for esophageal rupture. Currently on medical management. 
- Continue home Losartan 20 mg
- Continue home simvastatin 40 mg
- Continue home Metoprolol XL 25 mg
- Continue home aspirin 81 mg

# Cirrhosis: CT scan ___ showing cirrhosis of liver 
# History of EtOH use disorder:
Patient with a diagnosis of cirrhosis based on CT scan ___ 
showing cirrhosis of liver in the setting of extensive EtOH use. 
Has been well compensated and does not have any reported history 
of ascites, SBP, HE, or varices. Exam currently without 
jaundice, ascites, asterixis, or signs of HE. Overall appears 
well compensated. 

# Chronic Back Pain 
- Continued home gabapentin 

# Depression/Anxiety 
- Continued home Celexa 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Gabapentin 300 mg PO QID 
2. Metoprolol Succinate XL 25 mg PO DAILY 
3. Warfarin 2.5 mg PO DAILY16 
4. Simvastatin 40 mg PO QPM 
5. Omeprazole 40 mg PO DAILY 
6. Citalopram 10 mg PO DAILY 
7. Nicotine Patch 14 mg/day TD DAILY 
8. Aspirin 81 mg PO DAILY 
9. Lactulose 30 mL PO DAILY 
10. Losartan Potassium 25 mg PO DAILY 

 
Discharge Medications:
1.  Enoxaparin Sodium 70 mg SC Q12H warfarin brdging  
RX *enoxaparin 60 mg/0.6 mL 60 mg twice a day Disp #*30 Syringe 
Refills:*0 
2.  Aspirin 81 mg PO DAILY  
3.  Citalopram 10 mg PO DAILY  
4.  Gabapentin 300 mg PO QID 
RX *gabapentin 300 mg 1 capsule(s) by mouth four times a day 
Disp #*120 Capsule Refills:*0 
5.  Lactulose 30 mL PO DAILY  
6.  Losartan Potassium 25 mg PO DAILY  
7.  Metoprolol Succinate XL 25 mg PO DAILY  
8.  Nicotine Patch 14 mg/day TD DAILY  
9.  Omeprazole 40 mg PO DAILY  
10.  Simvastatin 40 mg PO QPM  
11.  Warfarin 2.5 mg PO DAILY16 
RX *warfarin [Coumadin] 2.5 mg 1 tablet(s) by mouth once a day 
Disp #*30 Tablet Refills:*0 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS: 
==================
Coaguolopathy 
Acute anemia 

SECONDARY DIAGNOSES: 
=====================
CAD 
AS s/p CABG-AVT in ___ at ___ 
AC joint separation 
Mechanical fall 
CHB s/p PPM placement 
Depression/anxiety

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,  

It was a pleasure caring for you at ___ 
___.  

WHY WAS I IN THE HOSPITAL?  
- You were transferred from ___ for extensive bruising and 
concerns of bleeding. 

WHAT HAPPENED TO ME IN THE HOSPITAL?  
- You received one unit of blood. 
- You were observed for signs of bleeding including blood checks 
and blood pressure checks. Luckily, no source of bleeding found. 

- You were started on IV heparin, which is a blood thinner, for 
your mechanical aortic valve.
- You were transitioned to twice a day lovenox injection (a 
blood thinner) with warfarin. Please continue to take lovenox 
till your INR is therapeutic on warfarin. 

WHAT SHOULD I DO AFTER I LEAVE THE HOSPITAL?  
- Please take your medications and go to your follow up 
appointments as described in this discharge summary.  
- If you experience any of the danger signs listed below, please 
call your primary care doctor or go to the emergency department 
immediately.  

We wish speedy recovery!
 
Followup Instructions:
___